Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]1[C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-1.0521886481
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-3.79094255085
[O:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1][O:2][C:3]#[C:4][H:5],3.3195512449299995
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-0.8991306891899999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],1.17867383904
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.85895218
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.828876274730001
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.26920598455
[H:1].[O:2]=[C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.87272952699
[C:2]=[O:8].[O:1]([C:3]([H:4])[C:5]#[C:6][H:7])[H:9]>>[O:1]=[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9],0.11397747609000003
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.75967514977
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]=[C:2][H:3],4.45647861417
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.14386554455
[H:1][C:2][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:3][C:5](=[C:4])[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-7.389978204319999
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9].[H:10]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-2.03043433896
[H:1][C:2]=[C:3]1[O:4][C:5][C@:6]1([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C@:6]([C:5]=[O:4])([H:7])[O:8][H:9],-2.8125394967900004
[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10].[H:4]>>[H:1][O:2][C:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-1.77065869121
[C:2]=[C:3]([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.412954658159999
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.6257649798900005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:11](/[O:10][C:9])[H:12],-0.583772655969
[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],-4.40944818393
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12],-3.7513071873300015
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],3.71349131732
[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.640601177280001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])(=[C:9])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:10][H:11],7.09329228163
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])=[O:6],2.17336935549
[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.469534050960001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5][H:6].[H:7],4.92675955819
[H:1][C:2]#[C:3][C:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-2.03349218076
